US04002755
In the next place, a mixture of 0.8 g of 2-(2-acetylhydrazino)-4-phenyl-6-nitroquinazoline thus obtained and 16 g of polyphosphoric acid was heated at 150° to 160° C for 2 hours. The mixture was then poured into ice-water and made alkaline with concentrated ammonia water. The precipitated crystals were filtered, washed with ethanol and then recrystallized from chloroform to obtain 1-methyl-5-phenyl-7-nitro-s-triazolo[4,3-a]quinazoline as pale brown crystals, m.p. 350° - 352° C.

reactant | 2-(2-acetylhydrazino)-4-phenyl-6-nitroquinazoline | 0.8 g | C(C)(=O)NNC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)[N+](=O)[O-] | C16H13N5O3
reactant | ammonia water | O.N
product | 1-methyl-5-phenyl-7-nitro-s-triazolo[4,3-a]quinazoline | CC1=NN=C2N1C1=CC=C(C=C1C(=N2)C2=CC=CC=C2)[N+](=O)[O-] | C16H11N5O2
